US07491735B2
To a solution of 4-[(4-bromophenyl)-hydroxymethyl]-piperidine-1-carboxylic acid tert-butyl ester (370 mg, 1.00 mmol), phenol (141 mg, 1.50 mmol) and Ph3P (393 mg, 1.50 mmol) in THF (6 mL) at room temperature was added DIAD (0.295 mL, 1.50 mmol) dropwise. The mixture was stirred at room temperature for 2.5 hours. Aqueous work-up and purification gave 4-[(4-bromophenyl)-phenoxymethyl]-piperidine-1-carboxylic acid tert-butyl ester as a colorless oil (213 mg, 48%).

reactant | 4-[(4-bromophenyl)-hydroxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.00 mmol, 370 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(O)C1=CC=C(C=C1)Br | C17H24BrNO3
reactant | phenol | 1.50 mmol, 141 mg | C1(=CC=CC=C1)O | C6H6O
reactant | Ph3P | 1.50 mmol, 393 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 1.50 mmol, 0.295 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-[(4-bromophenyl)-phenoxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | 213 mg, 48% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(OC1=CC=CC=C1)C1=CC=C(C=C1)Br | C23H28BrNO3
